US09108966B2
LiOH.H2O (2.7 g, 64 mmol) was added to a solution of (2S,5R)-1-tert-butyl 2-ethyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)piperidine-1,2-dicarboxylate (9.0 g, 16 mmol) in THF (60 mL) and H2O (60 mL) at rt. The mixture was stirred at rt for 36 hrs., then the reaction mixture was adjusted to pH 4 with 1N HCl, and extracted with EtOAc (3×). The combined organic layer was washed with saturated sodium chloride, dried over Na2SO4 and concentrated to give (2S,5R)-5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid (8.2 g, 95%) as a yellow solid. ESI-MS (EI+, m/z): 558 [M+Na]+.

reactant | LiOH.H2O | 64 mmol, 2.7 g | O[Li].O
reactant | (2S,5R)-1-tert-butyl 2-ethyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)piperidine-1,2-dicarboxylate | 16 mmol, 9.0 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC | C26H33N3O9S
reactant | HCl | 1N | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | H2O | 60 mL | O | H2O
product | (2S,5R)-5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid | 8.2 g, 95% | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C24H29N3O9S
